US06462038B1
In a 50-mL r.b. flask, a solution of 3,4-dihydro-1,3,3-trimethylquinoxalin-2(1H)-one (830 mg, 4.36 mmol) in 20 mL of conc. H2SO4 was cooled to −15° C. A solution of HNO3 (336 mg, 4.80 mmnol, 1.1 equiv) dissolved in conc. H2SO4 (1 mL) was then added dropwise via syringe in order to maintain a temperature below −5° C. After complete addition the reaction was allowed to stir at −15° C. for 15 min, warmed to rt, poured over NaOH (15 g) pellets and ice. After complete solution of the NaOH pellets, the red precipitate was filtered, redissolved in EtOAc (150 mL), washed with H2O (20 mL), brine (20 mL), dried (MgSO4), filtered, and concentrated to give a orange solid. No further purification is required to obtain 960 mg (94%) of 3,4-dihydro-1,3,3-trimethyl-6-nitroquinoxalin-2(1H)-one as an orange solid. Data for 3,4-dihydro-1,3,3-trimethyl-6-nitroquinoxalin-2 (1H)-one: 1H NMR (400 MHz, CDCl3) δ 7.76 (dd, J=8.8, 2.5, 1H), 7.55 (d, J=2.4, 1H), 6.96 (d, J=8.9, 1H), 4.04 (bs, 1H), 3.42 (s, 3H), 1.41 (s, 6H).

reactant | 3,4-dihydro-1,3,3-trimethylquinoxalin-2(1H)-one | 4.36 mmol, 830 mg | CN1C(C(NC2=CC=CC=C12)(C)C)=O | C11H14N2O
reactant | HNO3 | 336 mg, 1.1 equiv | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | 15 g | [OH-].[Na+]
solvent | H2SO4 | 20 mL | OS(=O)(=O)O | H2O4S
solvent | H2SO4 | 1 mL | OS(=O)(=O)O | H2O4S
product | 3,4-dihydro-1,3,3-trimethyl-6-nitroquinoxalin-2(1H)-one | 960 mg, 94% | CN1C(C(NC2=CC(=CC=C12)[N+](=O)[O-])(C)C)=O | C11H13N3O3
